US07288537B2
A solution of 1-{(S)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(3,5-dimethoxy-phenyl)-urea (0.05 g, 0.111 mmol) and triethylamine (0.031 ml, 0.222 mmol) in DCM (3 ml) is treated with acetic anhydride and left to stir at room temperature for 3 hours. The reaction mixture is partitioned between DCM and water. The organic phase is washed with sodium bicarbonate solution, dried over magnesium sulphate and evaporated to afford acetic acid (S)-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]-2-[3-(3,5-dimethoxy-phenyl)-ureido]-butyl ester. [M+H] 492.08

reactant | 1-{(S)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(3,5-dimethoxy-phenyl)-urea | 0.111 mmol, 0.05 g | ClC1=CC=C(OC2CN(C2)CC[C@@H](CO)NC(=O)NC2=CC(=CC(=C2)OC)OC)C=C1 | C22H28ClN3O5
reactant | triethylamine | 0.222 mmol, 0.031 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | acetic acid (S)-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]-2-[3-(3,5-dimethoxy-phenyl)-ureido]-butyl ester | ClC1=CC=C(OC2CN(C2)CC[C@@H](COC(C)=O)NC(=O)NC2=CC(=CC(=C2)OC)OC)C=C1 | C24H30ClN3O6
